US08193202B2
F. Preparation of 3-(4-(benzyloxy)-1-(5-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidine-4-carboxamido)phenyl dimethylcarbamate.
To a solution of 3-(4-(benzyloxy)piperidine-4-carboxamido)phenyl dimethylcarbamate, from step E, and N,N-diisopropylethylamine (0.7 mL, 4.02 mmol) in isopropanol (1.6 mL) was added 4-chloro-5-methyl-7H-pyrrolo[2,3-d]pyrimidine (135 mg, 0.804 mmol). The reaction mixture was heated to 110° C. in a sealed high-pressure vial for 17 hours, during which time the mixture became homogenous. The reaction was concentrated under vacuum, and half of the material was purified by prep HPLC (30×100 mm C18 column, 20-100% acetonitrile:water (10 mM ammonium acetate), 15 min, 45 mL/min) to afford the title compound (33.4 mg) as a white solid.

reactant | 3-(4-(benzyloxy)piperidine-4-carboxamido)phenyl dimethylcarbamate | CN(C(OC1=CC(=CC=C1)NC(=O)C1(CCNCC1)OCC1=CC=CC=C1)=O)C | C22H27N3O4
reactant | N,N-diisopropylethylamine | 4.02 mmol, 0.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-chloro-5-methyl-7H-pyrrolo[2,3-d]pyrimidine | 0.804 mmol, 135 mg | ClC=1C2=C(N=CN1)NC=C2C | C7H6ClN3
solvent | isopropanol | 1.6 mL | C(C)(C)O | C3H8O
product | 3-(4-(benzyloxy)-1-(5-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)piperidine-4-carboxamido)phenyl dimethylcarbamate | 33.4 mg | CN(C(OC1=CC(=CC=C1)NC(=O)C1(CCN(CC1)C=1C2=C(N=CN1)NC=C2C)OCC2=CC=CC=C2)=O)C | C29H32N6O4
